US03974156
Allylglycidyl ether (94.7 g.) is added with stirring to a solution of n-propylamine (98 g., 137 ml.) in ethanol (200 ml.). The mixture is heated under reflux for 18 hours and the solvent and excess of n-propylamine are distilled off. The residual oil is distilled and the fraction b.p. 79°-85°C. at 1 m.m. is collected to give 1-allyloxy-3-n-propylamino-2-propanol.

reactant | Allylglycidyl ether | 94.7 g | C(C=C)OCC1CO1 | C6H10O2
reactant | n-propylamine | 137 ml, 98 g | C(CC)N | C3H9N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-allyloxy-3-n-propylamino-2-propanol | C(C=C)OCC(CNCCC)O | C9H19NO2
